US07375113B2
4-[(E)-2-Phenylvinyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole
A mixture of 4-bromo-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole (75 mg), styrene (33 mg), triethylamine (0.073 mL), palladium (II) acetate (2 mg) and tris(2-methylphenyl)phosphine (6 mg) inacetonitrile (2 mL) was heated for reflux under an argon atmosphere overnight. The reaction mixture was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/1-2/1) to give the title compound (50 mg).

reactant | 4-bromo-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole | 75 mg | BrC1=C2C(=NNC2=CC=C1)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C33H47BrN2O10
reactant | styrene | 33 mg | C=CC1=CC=CC=C1 | C8H8
reactant | tris(2-methylphenyl)phosphine | 6 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
catalyst | palladium (II) acetate | 2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | 0.073 mL | C(C)N(CC)CC | C6H15N
product | 4-[(E)-2-Phenylvinyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole | 50 mg | C1(=CC=CC=C1)/C=C/C1=C2C(=NNC2=CC=C1)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C41H54N2O10
